US04927835
3-(1,1-Dimethylethyl)-4-hydroxy-5-[N-(2-hydroxyethyl)-N-methylaminomethyl]phenyl 2-thienyl ketone.
3-(1,1-Dimethylethyl)-4-hydroxyphenyl 2-thienyl ketone (22.0 g) was dissolved in 440 ml of ethanol and heated to reflux for 6 hours with 12.7 g of N-methylethanolamine, 14.5 g of a 35% aqueous solution of formaldehyde and 50.8 g of acetic acid. After the reaction, the solvent was evaporated. A saturated aqueous solution of sodium bicarbonate was added to the residue and the mixture was extracted with chloroform three times. The extract was dried with magnesium sulfate, the solvent evaporated, and the resulting yellow oil subjected to a column chromatography (500 g of silica gel being used; eluates were (1) ethylacetate/n-hexane in 3:1 proportions and (2) the same in 1:1 proportion). The isolated and purified product was recrystallized from methanol/water to give 23.33 g of pale yellow crystals, m.p. 98°-100° C. (methanol/water).

reactant | 3-(1,1-Dimethylethyl)-4-hydroxyphenyl 2-thienyl ketone | 22.0 g | S1C(=CC=C1)C(=O)C1=CC(=C(C=C1)O)C(C)(C)C | C15H16O2S
reactant | N-methylethanolamine | 12.7 g | CNCCO | C3H9NO
reactant | formaldehyde | C=O | CH2O
reactant | acetic acid | 50.8 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 440 ml | C(C)O | C2H6O
product | 3-(1,1-Dimethylethyl)-4-hydroxy-5-[N-(2-hydroxyethyl)-N-methylaminomethyl]phenyl 2-thienyl ketone | 23.33 g | S1C(=CC=C1)C(=O)C1=CC(=C(C(=C1)CN(C)CCO)O)C(C)(C)C | C19H25NO3S
